US07732365B2
(−)-1-Methoxy-4-(1-propylallyloxy)benzene:
Reaction of benzylamine with methyl cinnamyl carbonate catalyzed by Complex Ir-3 and [(COE)2IrCl]2 (FIG. 2, triangles): By the procedure for reaction of the combination of Ir-2 and [(COD)IrCl]2, the reaction of benzylamine (135 mg, 1.26 mmol) and methyl cinnamyl carbonate (192 mg, 1.00 mmol) catalyzed by [(COD)Ir(κ2-L1)(PPh3)] (Ir-3) (11.0 mg, 0.0100 mmol) and [(COE)2IrCl]2 (4.4 mg, 0.0050 mmol) was monitored by GC for 10 h. 1H NMR analysis of the crude reaction showed the ratios of products to be 98/1/1, and after purification of the product by the general procedure, HPLC analysis as described above indicated that the enantiomeric excess of the major product was 97.2%.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl cinnamyl carbonate | C(OC)(OCC=CC1=CC=CC=C1)=O | C11H12O3
reactant | Ir-3 | CC1=CC=C(C=C1)C2=COC3CC(C(CC3C2=O)O)O | C16H18O4
reactant | Ir-2 | CC1(C2=CC=CC=C2[N+](=C1/C=C/C3=C(/C(=C\C=C/4\C(C5=CC=CC=C5N4CCCCS(=O)(=O)O)(C)C)/CCC3)OC6=CC=C(C=C6)OCCCCNCC7C(C(C(C(O7)O)N)O)O)CCCCS(=O)(=O)[O-])C | C54H72N4O12S2
reactant | benzylamine | 1.26 mmol, 135 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl cinnamyl carbonate | 1.00 mmol, 192 mg | C(OC)(OCC=CC1=CC=CC=C1)=O | C11H12O3
product | (−)-1-Methoxy-4-(1-propylallyloxy)benzene | COC1=CC=C(C=C1)OC(C=C)CCC | C13H18O2
